US09238639B2
A) 3-((4-Methoxybenzyl)sulfanyl)-2,5-dimethylphenyl acetate
To a mixture of 3-hydroxy-2,5-dimethylphenyl acetate (1.04 g) and CH3CN (57 mL) were added TEA (1.61 mL) and Tf2O (1.17 mL) at 0° C. The mixture was stirred at 0° C. for 30 min under nitrogen atmosphere. The mixture was diluted with water at 0° C. and then concentrated in vacuo. The residue was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residual crude material was dissolved in toluene (50 mL). To the solution were added DIPEA (1.79 mL), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.150 g), (4-methoxyphenyl)methanethiol (0.723 mL) and tris(dibenzylideneacetone)dipalladium (0) (Pd2(dba)3, 0.238 g) at room temperature. The mixture was refluxed for 4 h. After cooling, water was added to the mixture, and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.27 g).

reactant | 3-hydroxy-2,5-dimethylphenyl acetate | 1.04 g | C(C)(=O)OC1=C(C(=CC(=C1)C)O)C | C10H12O3
reactant | CH3CN | 57 mL | CC#N | C2H3N
reactant | Tf2O | 1.17 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | 3-((4-Methoxybenzyl)sulfanyl)-2,5-dimethylphenyl acetate | 1.27 g | C(C)(=O)OC1=C(C(=CC(=C1)C)SCC1=CC=C(C=C1)OC)C | C18H20O3S
